US08044206B2
3.32 g of aniline was added to a solution of 4.99 g of 2-chlorobenzaldehyde in 48 ml of benzene, and the mixture was heated under reflux for 20 hours. After the reaction mixture was concentrated under reduced pressure, the concentrate was azeotropically distilled with toluene to give 6.16 g of yellow oil. The yellow oil was dissolved in 120 ml of acetic acid and 5.45 g of palladium acetate was added to the solution, followed by heating under reflux for 2 hours. After cooling, water was added to the reaction mixture and the precipitated crystals were collected by filtration. The crystals were dissolved in 50 ml of methylene chloride, and 75 ml of saturated aqueous sodium chloride and 50 ml of acetone were added to the solution. The mixture was stirred at ambient temperature for 15 hours. The precipitated crystals were collected by filtration and washed with ethanol, benzene and methylene chloride to give 5.50 g of green crystals. The crystals were suspended in 250 ml of benzene and 8.08 g of triphenylphosphine was added to the suspension, followed by stirring at ambient temperature for 50 minutes. To the reaction mixture was added 13 ml of 1.2M methyl lithium in diethyl ether. The mixture was stirred for 2 hours and 250 ml of 1N hydrochloric acid was further added thereto, followed by stirring for 2 hours. The reaction mixture was extracted with diethyl ether. The organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 1.51 g of 2-chloro-6-methylbenzaldehyde as pale yellow oil.

reactant | triphenylphosphine | 8.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl lithium | 1.2M, 13 ml | C[Li]
reactant | hydrochloric acid | 1N, 250 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-6-methylbenzaldehyde | 1.51 g | ClC1=C(C=O)C(=CC=C1)C | C8H7ClO
